US04489093
Using the procedure of Example 17, (S)α-cyano-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3(E)-[2-fluoro-3-oxo-3-hydroxy-propenyl]-cyclopropane-1-carboxylate was reacted to obtain a 61% of yield of (S)α-cyano-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3(E)-[2-fluoro-3-oxo-3-tert-.butoxy-propenyl]-cyclopropane-1-carboxylate with a specific rotation of [α]D20 =+26.5° (c=0.25% in chloroform).

reactant | (S)α-cyano-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3(E)-[2-fluoro-3-oxo-3-hydroxy-propenyl]-cyclopropane-1-carboxylate | CC1([C@@H]([C@@H]1\C=C(/C(O)=O)\F)C(=O)O[C@@H](C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C23H20FNO5
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (S)α-cyano-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3(E)-[2-fluoro-3-oxo-3-tert-.butoxy-propenyl]-cyclopropane-1-carboxylate | CC1([C@@H]([C@@H]1\C=C(/C(OC(C)(C)C)=O)\F)C(=O)O[C@@H](C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C27H28FNO5
